US08137925B2
Synthesis of 5-(4-azido-2,3,5,6-tetrafluorobenzamido) pentanoic acid:
To a solution of 5-aminovaleric acid (12 mg, 100 μmol) in dry DMSO (250 μL) was added N-succinimidyl 4-azido-2,3,5,6-tetrafluorobenzoate (25 mg, 75 μmol). The reaction was allowed to proceed overnight at 45° C. in the dark. The mixture was then acidified with 250 μL of 0.5 N hydrochloric acid and extracted with 400 μL of ethyl acetate three times. The combined extracts were concentrated in vacuo and purified by silica chromatography using 2:1 hexane-ethyl acetate to yield the desired product as a white powder. Yielded: 3 mg, 9 μmol, 12%. TLC: Rf=0.3 (1:1 hexane-ethyl acetate) 1H-NMR (300 MHz, (CD3)2SO): δ 12.03 (s, 1H), 8.89 (t, 1H, J=5.4), 3.23 (q, 2H, J=6.3), 2.22 (t, 2H, J=7.2), 1.497 (m, 4H). ESI-MS m/z: (neg) 333.07 [M−H]−. Calc. 334.23

reactant | 5-aminovaleric acid | 100 μmol, 12 mg | NCCCCC(=O)O | C5H11NO2
reactant | N-succinimidyl 4-azido-2,3,5,6-tetrafluorobenzoate | 75 μmol, 25 mg | C1CC(=O)N(C1=O)OC(=O)C2=C(C(=C(C(=C2F)F)N=[N+]=[N-])F)F | C11H4F4N4O4
reactant | hydrochloric acid | 0.5 N, 250 μL | Cl | ClH
solvent | DMSO | 250 μL | CS(=O)C | C2H6OS
product | 5-(4-azido-2,3,5,6-tetrafluorobenzamido) pentanoic acid | N(=[N+]=[N-])C1=C(C(=C(C(=O)NCCCCC(=O)O)C(=C1F)F)F)F | C12H10F4N4O3
